US06982274B2
2-[3-(3-Fluorophenyl)-1H-5-indazolyl]acetic acid
50 mg of 2-[3-(3-fluorophenyl)-1H-5-indazolyl]acetonitrile was suspended in 0.5 ml of water and 0.4 ml of concentrated sulfuric acid, and the suspension was stirred at 95° C. for 2 hours. The reaction mixture was added with 20 ml of ethyl acetate, sequentially washed with water (×2) and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated, to give 48 mg of the title compound as pale red crystals.

reactant | 2-[3-(3-fluorophenyl)-1H-5-indazolyl]acetonitrile | 50 mg | FC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)CC#N | C15H10FN3
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 0.5 ml | O | H2O
solvent | sulfuric acid | 0.4 ml | S(O)(O)(=O)=O | H2O4S
product | 2-[3-(3-Fluorophenyl)-1H-5-indazolyl]acetic acid | 48 mg | FC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)CC(=O)O | C15H11FN2O2
